US05064953
Preparation of 5-chloro-7-ethoxycarbonyl-s-triazolo[4,3-a]pyrimidine
7-Ethoxycarbonyl-5-hydroxy-s-triazolo[4,3-a]pyrimidine (10 g) was added to 50 ml of phosphorus oxychloride at room temperature, the mixture was heated at 60° C. for one hour, and excess phosphorus oxychloride was removed by distillation under reduced pressure. The remaining dark red oil was shaken with 200 ml of chloroform and 100 ml of water, and the aqueous layer was again extracted with 100 ml of fresh chloroform. The chloroform layers were joined together and washed with 80 ml of saturated sodium bicarbonate solution and 100 ml of saturated sodium chloride solution and dried over anhydrous sodium sulfate. The dried solution was concentrated under reduced pressure to about 50 ml, and the residue was recrystallized from 100 ml of n-hexane. The crystals were collected by filtration, affording 6.2 g of the objective compound as faint yellow crystals.

reactant | 7-Ethoxycarbonyl-5-hydroxy-s-triazolo[4,3-a]pyrimidine | 10 g | C(C)OC(=O)C1=NC=2N(C(=C1)O)C=NN2 | C8H8N4O3
reactant | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-chloro-7-ethoxycarbonyl-s-triazolo[4,3-a]pyrimidine | 6.2 g | ClC1=CC(=NC=2N1C=NN2)C(=O)OCC | C8H7ClN4O2
